US06710054B2
A mixture of N-{[(2-{4-[(3-amino-4,6-dimethyl-2-pyridinyl)amino]phenyl}ethyl)amino]carbonyl}-4-methylbenzenesulfonamide (300 mg , 0.66 mmol), methylisothiocyanate (56 □l, 0.86 mmol), and THF (6 ml) was stirred at room temperature for 3 days. The solvent was removed to give N-{[(2-{4-[(4,6-dimethyl-{[(methylamino)carbonothioyl]amino}-2-pyridinyl)amino]phenyl}ethyl)amino]carbonyl}-4-methylbenzenesulfonamide [MS (ESI) m/z: 527 ([M+H]+), 525 ([M−H]−)]. This was dissolved with MeCN (4 ml) and treated with Mel (54□□l) at 0° C. for 20 hours. After concentration under reduced pressure, the residue was purified by preparative TLC (EtOAc/EtOH=20/1) to afford 170 mg (52%) of the title compounds.

reactant | N-{[(2-{4-[(3-amino-4,6-dimethyl-2-pyridinyl)amino]phenyl}ethyl)amino]carbonyl}-4-methylbenzenesulfonamide | 0.66 mmol, 300 mg | NC=1C(=NC(=CC1C)C)NC1=CC=C(C=C1)CCNC(=O)NS(=O)(=O)C1=CC=C(C=C1)C | C23H27N5O3S
reactant | methylisothiocyanate | 0.86 mmol | CN=C=S | C2H3NS
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | N-{[(2-{4-[(4,6-dimethyl-{[(methylamino)carbonothioyl]amino}-2-pyridinyl)amino]phenyl}ethyl)amino]carbonyl}-4-methylbenzenesulfonamide | CC1=C(C(=NC(=C1)C)NC1=CC=C(C=C1)CCNC(=O)NS(=O)(=O)C1=CC=C(C=C1)C)NC(=S)NC | C25H30N6O3S2
